Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension, left leg wound
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with PMH of metastatic squamous cell carcinoma of 
the vulva s/p radiation and chemotherapy currently on 
immunotherapy presented to the ED after onc visit today revealed 
abnormal labs (creatinine of 5), hypotension, and wound of her 
posterior thigh in the setting of LLE swelling.

Patient was diagnosed with vulvar squamous cell carcinoma in 
___, underwent radiation and platinum-based chemo earlier this 
year. She was subsequently found to have refractory disease with 
persistent vulvar lesion and inguinal node spread confirmed on 
biopsy. She was started on immunotherapy in ___. 

The left lower extremity began swelling a month ago. She 
presented to the ED where she had a negative U/S of the LLE. 
However, the swelling has increased. There is some pain  
associated with it and she endorses difficulty with getting 
dressed. She recently noticed irritation on her thigh a few days 
ago and a small lesion was identified. It has minimal serous 
drainage, no pus. She denies fever but has had several days of 
cold sweats.

At her clinic visit today she was hypotensive with abnormal labs 
and was sent to the ED. She admitted to ongoing urinary 
incontinence and fatigue. She also endorsed watery diarrhea, 
which initially began intermittently with chemo/rad but became 
more frequent when starting nevolumab. She started taking an 
anti-diarrheal recently, which has helped.

General surgery, oncology and gyn/oncology were consulted. The 
consensus was that the patient likely was having skin necrosis 
___ immunotherapy or as a progression of her cancer. Debridement 
not recommended due to low evidence for nec/fac on CT as well as 
concern for poor wound healing. Patient will be closely followed 
and if she goes to OR with GYN/ONC, gen surg will participate.

ED Course notable for:  
Afebrile, hypotensive to 70/40's and started on levophed and 
fluids, saturating well on room air. White count was 13.4. 
BUN/CR 98/5. Lactate 1.3. Bicarb 14. UA clean. CXR and left ___ 
___. CT abd/pelvis showed newly ulcerated skin overlying 
left inguinal LAD. No fascial thickening/emphysema. She was 
given clinda, vanc, cefepime. 

 
Past Medical History:
- Obesity
- Hypercholesterolemia
- Hypertension
- Osteoarthritis
- History of TIA
- Lichen sclerosus
- Vitamin D deficiency
- Cholecystectomy (___)

PAST ONCOLOGIC HISTORY (summarized from medical record):
- ___: biopsy of erosive erythematous lesion on left labia
minus, demonstrated invasive well to moderately differentiated
squamous cell carcinoma
- ___: established care with Dr. ___ of
___ Oncology at ___
- ___: PET-CT at ___ showed 4.2 x 1.3 cm highly avid
vulvar lesion and multiple enlarged avid left inguinal anterior
pelvic lymph nodes, including a large centrally necrotic left
inguinal lymph node with an SUV max of 5.9, and a 1.1 cm left
anterior pelvic lymph node with an SUV max of 4.8.
- ___: Pelvic MRI at ___ showed a 0.4 x 0.7 cm subtle
mildly T2 hypointense enhancing lesion along the left labia with
restricted diffusion that was inferior and separate from the
clitoris, and two enlarged centrally necrotic left external 
iliac
lymph nodes and three similar left inguinal lymph nodes, the
largest measuring 1.7 x 1.4 cm in the left external iliac region
and 2.2 x 1.8 cm in the left inguinal region.
- ___: Established care with Dr. ___ of ___
Oncology at ___, planned to start radiation with curative
intent
- ___: Established care with Dr. ___ of ___
Oncology at ___
- ___: Started chemotherapy with weekly cisplatin
- ___: Started radiation

 
Social History:
___
Family History:
Maternal uncle had lung cancer and was a smoker. No known family
history of heart disease.
 
Physical Exam:
#ERROR!
ADMISSION PHYSICAL EXAM:
#ERROR!
VITALS: Temp 98.1, HR 63, BP 113/69, RR 14, SPO297% on room air
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not elevated, no LAD 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: 3+ ___ LLE edema, normal RLE. Warm and 
well-perfused, no cyanosis or clubbing. 
SKIN: multiple skin lesions including left inguinum and right 
labium. Borders drawn by gen surg and wounds are dressed and 
c/d/I. 
NEURO: alert and oriented

#ERROR!
DISCHARGE PHYSICAL EXAM:
#ERROR!
Temp: 97.4 (Tm 98.4), BP: 138/75 (105-138/60-75), HR: 60
(60-75), RR: 19 (___), O2 sat: 98% (98-99), O2 delivery: Ra   
 
Gen: obese, well-appearing, NAD, sitting in chair
CV: RRR, no murmurs
Chest: port-a-cath in place, c/d/i
PULM: CTAB without wheezes or rales
ABD: obese, soft, NT, ND
EXT: ___ edema L>R

 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 08:30AM BLOOD WBC-13.4* RBC-2.82* Hgb-8.7* Hct-25.7* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-12.9 RDWSD-42.7 Plt ___
___ 08:30AM BLOOD Neuts-84.8* Lymphs-4.7* Monos-8.8 Eos-1.0 
Baso-0.1 Im ___ AbsNeut-11.34* AbsLymp-0.63* AbsMono-1.18* 
AbsEos-0.13 AbsBaso-0.02
___ 10:00AM BLOOD ___ PTT-25.7 ___
___ 08:30AM BLOOD Glucose-92 UreaN-98* Creat-5.0*# Na-133* 
K-4.0 Cl-94* HCO3-14* AnGap-25*
___ 08:30AM BLOOD ALT-29 AST-33 AlkPhos-88 TotBili-0.2
___ 08:30AM BLOOD Albumin-3.3* Calcium-9.2
___ 08:30AM BLOOD Phos-8.9* Mg-2.0
___ 08:30AM BLOOD TSH-1.1
___ 07:48PM BLOOD ___ pO2-40* pCO2-27* pH-7.30* 
calTCO2-14* Base XS--12
___ 02:29PM BLOOD Lactate-1.3

IMAGING:
#ERROR!
CXR ___: Impression - No acute intrathoracic process 

LLE DUPLEX U/S ___: Impression - Limited study due to 
inability of the patient to tolerate normal compressive 
maneuvers in the left common femoral and femoral veins. There 
was normal wall to wall color flow and spectral waveforms within 
these vessels, suggesting deep venous thrombosis in the left 
lower extremity veins is unlikely. 

CT ABD/PEL ___: Impression:
1. Interval ulceration of the skin surface overlying and 
extending to known metastatic left inguinal lymphadenopathy. No 
fascial thickening or 
subcutaneous emphysema to suggest necrotizing fasciitis. Burden 
of pelvic and inguinal lymphadenopathy appears grossly similar 
within the limitations of unenhanced scan. No new 
lymphadenopathy. 
2. No other acute findings to explain the patient's signs and 
symptoms within the abdomen or pelvis 

MICROBIOLOGY:
#ERROR!
___ 6:32 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

___ 6:32 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

 
 
___ 1:54 am BLOOD CULTURE      Source: Line-portacath. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 4:17 pm SWAB      Source: R labial ulcer. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      2+   ___ per 1000X FIELD):   GRAM VARIABLE COCCOBACILLI. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      ACINETOBACTER BAUMANNII COMPLEX.    HEAVY GROWTH. 
         "Note, for Amp/sulbactam, higher-than-standard dosing 
needs to be
         used, since therapeutic efficacy relies on intrinsic 
activity of
         the sulbactam component". 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    SPARSE GROWTH. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ACINETOBACTER BAUMANNII COMPLEX
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------    16 I
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
LEVOFLOXACIN----------  0.25 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or
         facultative anaerobes. The presence of B.fragilis, 
C.perfringens,
         and C.septicum is being ruled out. 
      BACTEROIDES FRAGILIS GROUP.    SPARSE GROWTH. 
         BETA LACTAMASE POSITIVE. 

DISCHARGE LABS:
#ERROR!
___ 05:49AM BLOOD WBC-13.0* RBC-2.84* Hgb-8.8* Hct-27.6* 
MCV-97 MCH-31.0 MCHC-31.9* RDW-14.3 RDWSD-50.2* Plt ___
___ 05:49AM BLOOD Plt ___
___ 05:49AM BLOOD Glucose-86 UreaN-27* Creat-1.2* Na-131* 
K-4.9 Cl-93* HCO3-26 AnGap-12
___ 05:49AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
SUMMARY:
#ERROR!
___ is a ___ year old female with metastatic 
squamous cell carcinoma of the vulva s/p radiation and 
chemotherapy currently on immunotherapy who presented with 
hypotension, diarrhea, and new labial wounds, concerning for 
autoimmune colitis and skin reaction in the setting of 
checkpoint inhibitor treatment. She initially needed pressors in 
the ICU and was quickly weaned off. She was treated with 
steroids and antibiotics and her symptoms improved.

ACUTE ISSUES:
#ERROR!
# Diarrhea
She had a few days of diarrhea prior to presentation, which was 
suspected to be in the setting of autoimmune colitis from 
checkpoint inhibitors. She initially had profuse liquid stool 
with complete incontinence, requiring a rectal tube. All 
infectious workup was negative and her diarrhea improved with 
steroids, loperamide, and psyllium. The rectal tube was removed 
and she continued to experience incontinence. ***

# Vulvar rash
# Wounds
# Metastatic Vulvar Squamous Cell Carcinoma
She presented with multiple wounds, including necrotic right 
labium, erosion of the left inguinum and a posterior thigh 
lesion. Initially, she was started on vancomycin, zosyn, and 
clindamycin for concern for advanced infection. She also was 
imaged and both ACS and gyn/onc were consulted for concern of 
necrotizing fasciitis and need for surgical management. There 
were no signs of necrotizing fasciitis and neither service 
believed there was indication for surgical management. Given her 
history of radiation treatment as well as checkpoint inhibitor 
therapy, there was concern for autoimmune rash vs radiation 
recall. Upon transfer from the ICU to the floor, dermatology was 
consulted who believed her rash to be autoimmune in the setting 
of recent checkpoint inhibitor treatment. She was therefore 
started on 1mg/kg steroids with improvement in symptoms during 
her hospitalization. Antibiotics were de-escalated to Bactrim 
based on wound culture data for a 14 day course.

# Hypotension
She initially presented with hypotension, requiring fluid 
resuscitation and 24 hours of levophed in the ICU. Her 
hypotension then resolved and she was later hypertensive and 
restarted on her home antihypertensive medications and 
maintained her blood pressure. Her hypotension was likely 
attributed to diarrhea and ___, therefore not clearing her home 
atenolol.

# Acute kidney injury
On admission, her creatinine was 5 (baseline 0.7). The etiology 
was thought to be pre-renal in the setting of hypotension, 
though nivolumab can also cause. Her home Lisinopril and 
ibuprofen were held, Lisinopril was later restarted once 
creatinine returned to baseline. 

#Metabolic acidosis w/ appropriate respiratory compensation
She presented with an anion gap and low bicarbonate, thought to 
be in the setting of ___. She received a bicarbonate drip in the 
ICU which was later discontinued as her anion gap closed. Her 
acidosis resolved prior to transfer to the floor and did not 
recur during this admission.

# Lower extremity edema
She had bilateral lower extremity edema, left > right. This was 
thought to be in the setting of inguinal lymphadenopathy and 
poor lymphatic circulation. DVT was ruled out with lower 
extremity Doppler ultrasound.

#Pain control
On home oxycodone regimen with IV dilaudid for breakthrough 
pain, which she required in the ICU. On discharge, her pain was 
well controlled with her home PO regimen.

# Leukocytosis
She was noted to have leukocytosis after beginning high dose 
steroids. Other infectious signs and symptoms improved and this 
was thought to be all in the setting of steroid use. Her CBC was 
trended and WBC count on day of discharge was ***.

TRANSITIONAL ISSUES:
#ERROR!
[] It is unclear why she was taking atenolol at home. This was 
restarted during her hospitalization, but it should be discussed 
in the outpatient setting whether to transition her to an 
alternate beta blocker.
[] She will continue on a total of a 14-day course of Bactrim 
for vulvar skin infection. Her antibiotic course is 
___.
[] Once she has completed her course of Bactrim as above, she 
will require once daily SS dosing for prophylaxis while she 
remains on steroids.

CODE: Full Code (confirmed)
EMERGENCY CONTACT HCP: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Furosemide ___ mg PO DAILY:PRN swelling 
4. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
5. Lidocaine Jelly 2% 1 Appl TP ASDIR PRN 
6. Lisinopril 10 mg PO DAILY 
7. LORazepam 0.5 mg PO QHS:PRN insomnia 
8. OxyCODONE (Immediate Release) ___ mg PO Q2H:PRN Pain - 
Moderate 
9. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
10. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
11. Aspirin 81 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
13. LOPERamide 2 mg PO Frequency is Unknown 
14. Senna 8.6 mg PO BID:PRN Constipation - Second Line 

 
Discharge Medications:
1.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID rash  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line 
flush  
4.  Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port  
5.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN with dressing 
changes 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 6 
hours as needed for pain Disp #*48 Tablet Refills:*0 
6.  Mupirocin Ointment 2% 1 Appl TP BID rash  
7.  Pantoprazole 40 mg PO Q24H  
8.  PredniSONE 60 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 2 of 7 tapered doses 
9.  PredniSONE 50 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 3 of 7 tapered doses 
10.  PredniSONE 40 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 4 of 7 tapered doses 
11.  PredniSONE 30 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 5 of 7 tapered doses 
12.  PredniSONE 20 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 6 of 7 tapered doses 
13.  PredniSONE 10 mg PO DAILY Duration: 7 Doses 
___ 
This is dose # 7 of 7 tapered doses 
14.  Psyllium Powder 1 PKT PO DAILY  
15.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 1 Day 
Ends ___.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
Starts ___, can stop once prednisone is less than 20.   
17.  Vitamin D 1000 UNIT PO DAILY  
18.  LOPERamide 4 mg PO TID:PRN diarrhea  
19.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe  
20.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
21.  Aspirin 81 mg PO DAILY  
22.  Atenolol 50 mg PO DAILY  
23.  Atorvastatin 40 mg PO QPM  
24.  Lidocaine Jelly 2% 1 Appl TP ASDIR PRN  
25.  LORazepam 0.5 mg PO QHS:PRN insomnia  
26.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H  
27.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
28. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until bactrim has been discontinued
29.Outpatient Lab Work
ICD-10: E87.5 hyperkalemia

Please obtain Chem 10 (including Cr and K) for patient on ___ 
and fax results to Dr. ___ :  ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Checkpoint inhibitor induced autoimmune vulvar rash
Checkpoint inhibitor induced autoimmune colitis
Vulvar infection
___ squamous cell carcinoma
Sepsis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY DID YOU COME TO THE HOSPITAL?
- You were in clinic and had diarrhea, a rash on your groin, and 
low blood pressure.

WHAT HAPPENED WHILE YOU WERE HERE?
- You spent one day in the ICU to keep you blood pressure high 
enough.
- You were seen by the GI doctors and the ___ doctors 
who thought your rash and diarrhea were because of your chemo 
drug.
- You received steroids to treat your rash and diarrhea, as well 
as antibiotics for an infection in the rash.

WHAT TO DO WHEN YOU LEAVE?
- Continue to take all your medicines and go to all your 
follow-up appointments.

Best wishes,
Your ___ team
 
Followup Instructions:
___